US08048902B2
Synthesis of (4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid methyl ester (Compound 16)
To (4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid (0.050 g, 0.1 mmol) in benzene (17 mL) and methanol (2 mL) was added (trimethylsilyl)diazomethane (2M in hexanes; 0.1 mL, 0.2 mmol), and the reaction was stirred at room temperature for 5 minutes. Additional (trimethylsilyl)diazomethane (2M in hexanes; 0.25 mL, 0.5 mmol) was added, and the reaction was stirred until no starting material was seen by analytical LCMS. The mixture was quenched with water and extracted with EtOAc. The combined organic layers were washed twice with water and once with brine, and then dried and concentrated. The residue was purified by silica gel chromatography (0-80% EtOAc in hexanes) to give the title compound.

reactant | (4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid | 0.1 mmol, 0.050 g | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)CC(=O)O)C | C27H23ClN2O5
reactant | (trimethylsilyl)diazomethane | 0.2 mmol, 2M, 0.1 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (trimethylsilyl)diazomethane | 0.5 mmol, 2M, 0.25 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | benzene | 17 mL | C1=CC=CC=C1 | C6H6
solvent | methanol | 2 mL | CO | CH4O
product | (4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid methyl ester | COC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)Cl)=O | C28H25ClN2O5
